US04963587
Into a solution of 0.5 g of 5-amino-2-(4-chlorophenyl)sulfonylaminoindan in 5 ml of hexamethylphosphoric triamide are added 0.2 g of sodium hydrogen carbonate and 0.25 g of methyl bromoacetate at 5 to 10° C., and the mixture is stirred at the same temperature for 4 hours. Water is added to the reaction mixture, followed by extraction with ethyl acetate. The extract is washed, dried and the solvent is evaporated. The residue is purified by separation through silica gel column chromatography (eluant: chloroform : ethyl acetate=7 : 3), and further recrystallized from ethyl acetate-n-hexane mixture to give 0.47 g of methyl N-[2-(4-chlorophenyl)sulfonylaminoindan-5-yl]glycinate.

reactant | 5-amino-2-(4-chlorophenyl)sulfonylaminoindan | 0.5 g | NC=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | sodium hydrogen carbonate | 0.2 g | C(O)([O-])=O.[Na+]
reactant | methyl bromoacetate | 0.25 g | BrCC(=O)OC | C3H5BrO2
reactant | Water | O | H2O
solvent | hexamethylphosphoric triamide | 5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | methyl N-[2-(4-chlorophenyl)sulfonylaminoindan-5-yl]glycinate | 0.47 g, Yield: 77% | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)NCC(=O)OC | C18H19ClN2O4S
